US05965730
(3S)-4-(3-Acetoxymethyl-3,4-dihydro-6,7-dimethoxyisoquinolin-1-yl)-2-[4-(3-pyridyl)phthalazin-1(2H)-on-2-yl]pyridine (400 mg) is suspended in a mixture of methanol (20 ml) and tetrahydrofuran (10 ml), and thereto is added dropwise a 1 M aqueous lithium hydroxide solution (1.43 ml) under ice-cooling. The mixture is stirred for 15 minutes under ice-cooling, and the mixture is reacted at room temperature for three hours. The reaction mixture is concentrated, and the water is added to the residue. The mixture is extracted with methylene chloride, and the extract is washed, dried and concentrated. The reside is purified by silica gel column chromatography (solvent; chloroform:methanol=10:1) to give (3S)-4-(3,4-dihydro-3-hydroxymethyl-6,7-dimethoxyisoquinolin-1-yl)-2-[4-(3-pyridyl)phthalazin-1(2H)-on-2-yl]pyridine (230 mg).

reactant | (3S)-4-(3-Acetoxymethyl-3,4-dihydro-6,7-dimethoxyisoquinolin-1-yl)-2-[4-(3-pyridyl)phthalazin-1(2H)-on-2-yl]pyridine | 400 mg | C(C)(=O)OC[C@H]1N=C(C2=CC(=C(C=C2C1)OC)OC)C1=CC(=NC=C1)N1C(C2=CC=CC=C2C(=N1)C=1C=NC=CC1)=O | C32H27N5O5
reactant | lithium hydroxide | 1 M, 1.43 ml | [OH-].[Li+]
solvent | methanol | 20 ml | CO | CH4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | (3S)-4-(3,4-dihydro-3-hydroxymethyl-6,7-dimethoxyisoquinolin-1-yl)-2-[4-(3-pyridyl)phthalazin-1(2H)-on-2-yl]pyridine | 230 mg | OC[C@H]1N=C(C2=CC(=C(C=C2C1)OC)OC)C1=CC(=NC=C1)N1C(C2=CC=CC=C2C(=N1)C=1C=NC=CC1)=O | C30H25N5O4
